US07342030B2
(5-Iodo-pyridin-2-yl)-carbamic acid tert-butyl ester (3.45 g, 10.77 mmol) was dissolved in anhydrous THF (30 ml) under an argon atmosphere and treated with (PPh3)2Pd(II)Cl2 (0.6 g, 0.86 mmol) and copper iodide (0.2 g, 1.1 mmol). To this mixture a solution of 1-but-3-inyl-1H-[1,2,3]triazole (2.1 g, 17.24 mmol) in anhydrous THF (20 ml) is added dropwise at 0° C. followed by diisopropyl-amine (7.6 mL, 53.88 mmol). After stirring for 6 h at room temperature ethyl acetate (100 mL) was added, the mixture was washed with water, brine and dried over sodium sulfate. After removal of the solvents the crude product was purified by column chromatography on silica gel (dichloro methane/methanol 98:2) yielding [5-(4-[1,2,3]triazol-1-yl-but-1-ynyl)-pyridin-2-yl]-carbamic acid tert-butyl ester as light yellow solid (2.35 g, 70%).

reactant | (5-Iodo-pyridin-2-yl)-carbamic acid tert-butyl ester | 10.77 mmol, 3.45 g | C(C)(C)(C)OC(NC1=NC=C(C=C1)I)=O | C10H13IN2O2
reactant | 1-but-3-inyl-1H-[1,2,3]triazole | 17.24 mmol, 2.1 g | C(CC#C)N1N=NC=C1 | C6H7N3
reactant | diisopropyl-amine | 53.88 mmol, 7.6 mL | C(C)(C)NC(C)C | C6H15N
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | copper iodide | 1.1 mmol, 0.2 g | [Cu](I)I
product | [5-(4-[1,2,3]triazol-1-yl-but-1-ynyl)-pyridin-2-yl]-carbamic acid tert-butyl ester | 2.35 g, 70% | C(C)(C)(C)OC(NC1=NC=C(C=C1)C#CCCN1N=NC=C1)=O | C16H19N5O2
